US04439437
2-[2-(5-Methyl-4-imidazolylmethylthio)ethyl]amino-3-benzyloxypyridine (1.3 g; 0.0036 moles) was treated with conc. hydrochloric acid (10 ml) and heated to 60° for 4 hours. The reaction mixture was stripped in vacuo to a green oil, dissolved in methanol, treated with ethyl acetate and left to stand for 2 days. The red crystals obtained were filtered off and recrystallised from methanol/ethyl acetate to give 2-[2-(5-methyl-4-imidazolylmethylthio)ethyl]amino-3-hydroxypyridine dihydrochloride as dark red crystals (0.17 g, mp 210°-212°).

reactant | 2-[2-(5-Methyl-4-imidazolylmethylthio)ethyl]amino-3-benzyloxypyridine | 0.0036 moles, 1.3 g | CC1=C(N=CN1)CSCCNC1=NC=CC=C1OCC1=CC=CC=C1 | C19H22N4OS
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethyl]amino-3-hydroxypyridine dihydrochloride | 0.17 g | Cl.Cl.CC1=C(N=CN1)CSCCNC1=NC=CC=C1O | InChI=1S/C12H16N4OS.2ClH/c1-9-10(16-8-15-9)7-18-6-5-14-12-11(17)3-2-4-13-12;;/h2-4,8,17H,5-7H2,1H3,(H,13,14)(H,15,16);2*1H
